US07465815B2
7-Amino-2,2,4,5,6-pentamethyl-1-benzofuran-3 (2H)-one
Using 7-(benzylamino)-2,2,4,5,6-pentamethyl-1-benzofuran-3 (2H)-one obtained in Reference Example 53, the title compound was synthesized in the same manner as in Reference Example 30. Yield: quantitative. Melting point: 141-142° C. (ethyl acetate-hexane).

reactant | 7-(benzylamino)-2,2,4,5,6-pentamethyl-1-benzofuran-3 (2H)-one | C(C1=CC=CC=C1)NC1=C(C(=C(C=2C(C(OC21)(C)C)=O)C)C)C | C20H23NO2
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 7-Amino-2,2,4,5,6-pentamethyl-1-benzofuran-3 (2H)-one | Yield: quantitative | NC1=C(C(=C(C=2C(C(OC21)(C)C)=O)C)C)C | C13H17NO2
